US07067540B2
Methyl 2-({[3-bromo-1-(2,6-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridin-4-yl]oxy}methyl)-5-fluorobenzylcarbamate
To solution of 4-{[2-(aminomethyl)-4-fluorobenzyl]oxy}-3-bromo-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one trifluoroacetate (0.12 g, 0.00021 mol) in dimethylacetamide (2.0 mL) at 0° C., was added triethylamine (0.06 mL, 0.00043 mol) followed by the addition of methylchloroformate (0.05 mL). The reaction mixture was stirred at room temperature for 30 min under argon atmosphere. Dimethylacetamide was distilled in vacuo and the residue was partitioned between dichloromethane (10 mL) and 5% citric acid (10 mL). The organic phase was washed with water, dried (Na2SO4) and concentrated to dryness. The resulting residue was purified by flash chromatography (60% EtOAc in hexane) to afford the title compound (0.09 g, 75%) as a white amorphous powder: 1H NMR (DMSO-d6/400 MHz) δ 7.68 (m, 1H), 7.62 (m, 1H), 7.59 (m, 1H) 7.38 (m, 2H), 7.115 (m, 2H), 6.78 (s, 1H), 5.38 (s, 2H), 4.31 (d, 2H, J=6.0 Hz), 3.53 (s, 3H), and 2.03 (s, 3H); 19F NMR (DMSO-d6/400 MHz) δ−113.77 (m), and −120.33 (m); ES-HRMS m/z 511.0508 (M+H C22H19N2O4F3Br requires 511.0475).

reactant | 4-{[2-(aminomethyl)-4-fluorobenzyl]oxy}-3-bromo-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one trifluoroacetate | 0.00021 mol, 0.12 g | FC(C(=O)O)(F)F.NCC1=C(COC2=C(C(N(C(=C2)C)C2=C(C=CC=C2F)F)=O)Br)C=CC(=C1)F
reactant | triethylamine | 0.00043 mol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | methylchloroformate | 0.05 mL | COC(=O)Cl | C2H3ClO2
solvent | dimethylacetamide | 2.0 mL | CC(=O)N(C)C | C4H9NO
product | Methyl 2-({[3-bromo-1-(2,6-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridin-4-yl]oxy}methyl)-5-fluorobenzylcarbamate | 0.09 g, 75% | BrC=1C(N(C(=CC1OCC1=C(CNC(OC)=O)C=C(C=C1)F)C)C1=C(C=CC=C1F)F)=O | C22H18BrF3N2O4
